2127-03-05 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
 SPUTUM CULTURE - At [**2127-3-4**] 11:46 AM
 BRONCHOSCOPY - At [**2127-3-4**] 12:22 PM
 ARTERIAL LINE - STOP [**2127-3-4**] 06:18 PM
 STOOL CULTURE - At [**2127-3-4**] 10:00 PM
   c. diff
 EKG - At [**2127-3-5**] 03:30 AM
   tachycardia w/?raf
   - 2L LR given, low UOP
   - Bronch - friable R bronchi/bronchioles, L appear pristine - BAL sent
   - Off pressors
   - Min sedation
   - Metoprolol 25mg OG x1 given for HR up to 130s and SBP > 130
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-3-4**] 08:21 PM
   Piperacillin - [**2127-3-5**] 02:01 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2127-3-4**] 07:54 AM
   Heparin Sodium (Prophylaxis) - [**2127-3-5**] 01:00 AM
   Fentanyl - [**2127-3-5**] 01:30 AM
   Midazolam (Versed) - [**2127-3-5**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-3-5**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 145 (61 - 145) bpm
   BP: 124/77(89) {112/55(70) - 136/79(94)} mmHg
   RR: 25 (0 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 14 (4 - 17)mmHg
   Mixed Venous O2% Sat: 71 - 71
   Total In:
                                                                 10,490 mL
                                                                  1,320 mL
   PO:
   TF:
                                                                     60 mL
                                                                    170 mL
   IVF:
                                                                  7,340 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                    541 mL
                                                                    210 mL
   Urine:
                                                                    441 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,949 mL
                                                                  1,110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 329 (329 - 329) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.35/36/99.[**Numeric Identifier **]/20/-4
   Ve: 8.1 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric, MMM, ET tube in place
   Neck: supple, JVP not elevated, no LAD
   Lungs: scattered rales, ronchi R>L
   CV: Tachy but rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, slight
   edema (anasarca) left > right arm
   Labs / Radiology
   336 K/uL
   8.8 g/dL
   100 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   14 mg/dL
   112 mEq/L
   138 mEq/L
   27.7 %
   19.4 K/uL
        [image002.jpg]
                             [**2127-3-3**]  08:42 PM
                             [**2127-3-4**]  02:11 AM
                             [**2127-3-4**]  03:16 AM
                             [**2127-3-4**]  08:07 AM
                             [**2127-3-4**]  01:30 PM
                             [**2127-3-4**]  02:14 PM
                             [**2127-3-4**]  05:38 PM
                             [**2127-3-4**]  08:50 PM
                             [**2127-3-5**]  03:45 AM
                             [**2127-3-5**]  03:57 AM
   WBC
   19.4
   Hct
   26.1
   28.9
   27.7
   Plt
   336
   Cr
   0.6
   0.5
   0.6
   0.5
   TropT
   0.05
   0.07
   TCO2
   22
   21
   21
   20
   20
   21
   Glucose
   114
   94
   135
   100
   Other labs: PT / PTT / INR:15.0/30.1/1.3, ALT / AST:30/44, Alk Phos / T
   Bili:114/0.3, Lactic Acid:1.7 mmol/L, LDH:299 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   BAL: 4+ PMNs, legionella neg, remaining ID studies pending
   Blood cultures 1 of 2 GPCs in pairs and GPR c/w Clostridium and
   Bacillus species
   C. diff neg x 1
   Assessment and Plan
   Assessment and Plan: This is a 89F with shock and respiratory failure
   likely from pna.
   .
   #  Respiratory Failure:  Patient hypoxic with CXR showing multifocal
   right lobe infiltrate.  Patient had recent ACA stroke and failed speach
   and swallow and not thought to be a good candidate for tube feeds but
   the family wanted to continue to feed her, putting her at high risk for
   aspiration. Urine & BAL Legionella negative.
   - Day 3 Vanco/Zosyn (Day 1 [**3-3**]) for 10 day course
   - change to PSV 10/5
   - daily risbi
   - wean vent as tolerated
   .
   #  Shock:  Patient admitted with fever, hypoxia, hypotension.  Most
   likely septic shock secondary to pna.  Less likely cardiogenic (trop
   slightly elevated, CK is flat, EKG without ischemic changes).  Central
   adrenal insufficiency due to pituitary macroadenoma less likely as
   cortisol elevated on admission (eos not elevated or absent).
   - Early goal directed therapy
   - Follow lactates
   - r/o MI
   - cortisol level
   .
   #  AMS: h/o right ACA stroke recently, however patient is less alert
   than she was previously.
   - CT head without contrast
   - Cont asa and statin
   .
   #  Hypertension:  Given hypotension, holding home medications of
   metoprolol and lisinopril.
   .
   #  Thyroid:  Pt with goiter and low TSH in setting of pit macroadenoma;
   Free T4 1.2, wnl.
   .
   #  Anemia: at baseline.
   - t & s
   .
   #  hypocalcemia: unclear cause, low albumin makes it difficult to
   assess.
   - check ionized calcium
   .
   # FEN: IVF PRN, replete electrolytes, TF at goal
   .
   # Prophylaxis: Subcutaneous heparin
   # Access: RIJ CVL; plan to replace A-line today.
   # Code: presumed full
   # Communication: Patient's family
   # Disposition: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2127-3-5**] 06:04 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-3-4**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-03-06 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT head - cont. evolution of R ACA infarct, stable sellar mass, no
   acute process
   - A-line placed
   - PSV trial 7.4/35/116/22
   - Spiked fever to 100.7, pan-cultured, UA with mod bacteria, restarted
   on vanc & zosyn on [**3-3**]
   - HTN to 170s resting (210 with movement), given lasix 20 mg IV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-3-5**] 08:30 PM
   Piperacillin - [**2127-3-6**] 02:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2127-3-5**] 07:54 AM
   Heparin Sodium (Prophylaxis) - [**2127-3-6**] 12:22 AM
   Furosemide (Lasix) - [**2127-3-6**] 04:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-3-6**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 106 (83 - 115) bpm
   BP: 156/77(112) {100/44(64) - 175/85(124)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 12 (8 - 14)mmHg
   Total In:
                                                                  3,534 mL
                                                                    673 mL
   PO:
   TF:
                                                                  1,229 mL
                                                                    305 mL
   IVF:
                                                                  2,115 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                    959 mL
                                                                  1,650 mL
   Urine:
                                                                    959 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,575 mL
                                                                   -977 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 404 (398 - 473) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 16 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.44/35/122/21/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric, MMM, ET tube in place
   Neck: supple, JVP not elevated, no LAD
   Lungs: scattered rales, ronchi R>L
   CV: Tachy nl rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, slight
   edema (anasarca) left > right arm
   Labs / Radiology
   284 K/uL
   7.9 g/dL
   137 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   16 mg/dL
   108 mEq/L
   135 mEq/L
   24.5 %
   17.7 K/uL
        [image002.jpg]
                             [**2127-3-4**]  02:14 PM
                             [**2127-3-4**]  05:38 PM
                             [**2127-3-4**]  08:50 PM
                             [**2127-3-5**]  03:45 AM
                             [**2127-3-5**]  03:57 AM
                             [**2127-3-5**]  01:58 PM
                             [**2127-3-5**]  03:53 PM
                             [**2127-3-5**]  06:07 PM
                             [**2127-3-6**]  04:03 AM
                             [**2127-3-6**]  04:04 AM
   WBC
   19.4
   17.7
   Hct
   28.9
   27.7
   24.5
   Plt
   336
   284
   Cr
   0.6
   0.5
   0.6
   0.7
   TCO2
   20
   20
   21
   19
   22
   25
   Glucose
   135
   100
   137
   Other labs: PT / PTT / INR:14.8/32.5/1.3, CK / CKMB /
   Troponin-T:44/5/0.07, ALT / AST:30/44, Alk Phos / T Bili:114/0.3,
   Lactic Acid:1.6 mmol/L, LDH:299 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 89F with shock and respiratory failure
   likely from pna.
   .
   #  Respiratory Failure:  Patient hypoxic with CXR showing multifocal
   right lobe infiltrate.  Patient had recent ACA stroke and failed speach
   and swallow and not thought to be a good candidate for tube feeds but
   the family wanted to continue to feed her, putting her at high risk for
   aspiration. Urine & BAL Legionella negative.
   - Day 4 Vanco/Zosyn (Day 1 [**3-3**]) for 10 day course
   - change to PSV 5/5
   - daily RSBI
 93 this AM
   - Will attempt to extubate today
   - Resp status likely to improve with diuresis
   - ABG after extubation
   .
   #  Shock:  Patient admitted with fever, hypoxia, hypotension.  Most
   likely septic shock secondary to pna.  Less likely cardiogenic (trop
   slightly elevated, CK is flat, EKG without ischemic changes).  Central
   adrenal insufficiency due to pituitary macroadenoma less likely as
   cortisol elevated on admission (eos not elevated or absent).
   - Early goal directed therapy initiated and likely stable now
   - Follow lactates, trended down, now stable in range of 1.7
   - r/o MI, although likely trop leak
   - Now appears to be in fluid overload, so will continue Lasix as UOP
   has increased and Cr not elevated
   .
   #  AMS: h/o right ACA stroke recently, however patient is less alert
   than she was previously.
   - MRI head showed continued evolution of infarct, no other new changes
   - Cont asa and statin
   .
   #  Hypertension:  Given hypotension, have been holding home medications
   of metoprolol and lisinopril.
   - Tried one dose of metoprolol with some decr in HR and BP, but will
   hold off until extubated and diuresed
   .
   #  Thyroid:  Pt with goiter and low TSH in setting of pit macroadenoma;
   Free T4 1.2, wnl.
   .
   #  Anemia: at baseline of mid 20s.
   - Follow HCT
   - t & s
   .
   #  Hypocalcemia: Resolved, unclear cause, low albumin makes it
   difficult to assess.
   -  ionized calcium nl and stable
   .
   # FEN: IVF PRN, replete electrolytes, TF at goal
   .
   # Prophylaxis: Subcutaneous heparin
   # Access: RIJ CVL; plan to replace A-line today.
   # Code: presumed full
   # Communication: Patient's family
   # Disposition: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2127-3-6**] 02:35 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-3-4**] 01:00 AM
   Arterial Line - [**2127-3-5**] 04:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-03-06 11:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CVA with expected evolution on CT done in the setting of
   unresponsiveness
   Fever to 101.7
   Patient able to tolerate PSV at 5/5 this morning
   24 Hour Events:
 ARTERIAL LINE - START [**2127-3-5**] 04:19 PM
 PAN CULTURE - At [**2127-3-5**] 04:55 PM
 STOOL CULTURE - At [**2127-3-6**] 04:36 AM
   second c. diff spec sent
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-3-5**] 08:30 PM
   Piperacillin - [**2127-3-6**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2127-3-6**] 04:51 AM
   Famotidine (Pepcid) - [**2127-3-6**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2127-3-6**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Hypertension
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-3-6**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.8
C (98.2
   HR: 101 (86 - 115) bpm
   BP: 153/73(107) {100/44(64) - 175/85(124)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 14 (8 - 14)mmHg
   Total In:
                                                                  3,534 mL
                                                                    899 mL
   PO:
   TF:
                                                                  1,229 mL
                                                                    350 mL
   IVF:
                                                                  2,115 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                    959 mL
                                                                  2,400 mL
   Urine:
                                                                    959 mL
                                                                  2,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,575 mL
                                                                 -1,501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 379 (379 - 473) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.43/39/118/21/1
   Ve: 9.1 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   284 K/uL
   137 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   16 mg/dL
   108 mEq/L
   135 mEq/L
   24.5 %
   17.7 K/uL
        [image002.jpg]
                             [**2127-3-4**]  05:38 PM
                             [**2127-3-4**]  08:50 PM
                             [**2127-3-5**]  03:45 AM
                             [**2127-3-5**]  03:57 AM
                             [**2127-3-5**]  01:58 PM
                             [**2127-3-5**]  03:53 PM
                             [**2127-3-5**]  06:07 PM
                             [**2127-3-6**]  04:03 AM
                             [**2127-3-6**]  04:04 AM
                             [**2127-3-6**]  09:00 AM
   WBC
   19.4
   17.7
   Hct
   28.9
   27.7
   24.5
   Plt
   336
   284
   Cr
   0.6
   0.5
   0.6
   0.7
   TCO2
   20
   21
   19
   22
   25
   27
   Glucose
   135
   100
   137
   Other labs: PT / PTT / INR:14.8/32.5/1.3, CK / CKMB /
   Troponin-T:44/5/0.07, ALT / AST:30/44, Alk Phos / T Bili:114/0.3,
   Lactic Acid:1.6 mmol/L, LDH:299 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.9 mg/dL
   Fluid analysis / Other labs: ABG--7.43/39
   Imaging: CXR-
   Bilateral pleural effusions with superimposed pulmonary infiltrate on
   right--with mild improvement
   Assessment and Plan
   89 yo female admitted with pneumonia and resultant sepsis now with
   persistent ventilatory failure.  She has current barriers to extubation
   of mental status and volume overload.  She has had favorable RSBI and
   good stability of oxygenation and ventilation on support.  Despite
   significant altered mental status patient had CT without significant
   change.  She has had some increased response to stimulus in regards to
   gag reflex with suctioning but is unable to follow any commands.
   RESPIRATORY FAILURE---Current barriers to be addressed as follows
   -Continue to hold all sedation and follow exam
   -Continue with Vanco/Zosyn and of note secretion volume is minimal
   -Lasix now for attempted diuresis and will increase dose
   -SBT now and will check gas at 60 minutes
HR=98, SBP=154 at start of
   trail.
   -If unfavorable will need to continue with diruesis for additional time
   prior to re-attempt
 SEPSIS WITHOUT ORGAN DYSFUNCTION-
   -vanco/zosyn to continue
 HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -All sedation held
   -Continue with exam
   -Patient responds intermittently to voice commands
 PNEUMONIA, OTHER
   aspiration vs nosocomial
   -Vanco/Zosyn
   CVA--
   -ASA
   ICU Care
   Nutrition: TF
s to hold this morning for possible extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-3-4**] 01:00 AM
   Arterial Line - [**2127-3-5**] 04:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 55 Minutes

2127-03-07 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RSBI and SBT excellent, extubated- prior to extubation:
   7.39/42/102--> after extubation:  7.49/38/56
   - ABG at 9 pm 7.55/32/55.  acetazolamide 250 mg Q 12 h x 2 doses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2127-3-6**] 09:00 AM
   Vancomycin - [**2127-3-6**] 10:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-3-7**] 02:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2127-3-6**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2127-3-6**] 04:09 PM
   Furosemide (Lasix) - [**2127-3-6**] 06:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-3-7**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (89 - 123) bpm
   BP: 150/69(104) {121/55(81) - 167/82(119)} mmHg
   RR: 22 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (7 - 14)mmHg
   Total In:
                                                                  1,548 mL
                                                                    268 mL
   PO:
   TF:
                                                                    483 mL
                                                                    131 mL
   IVF:
                                                                    720 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  7,380 mL
                                                                  1,010 mL
   Urine:
                                                                  7,380 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,832 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 466 (354 - 466) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.50/41/234/31/8
   Ve: 8.7 L/min
   PaO2 / FiO2: 585
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric, MMM, ET tube in place
   Neck: supple, JVP not elevated, no LAD
   Lungs: scattered rales, ronchi R>L
   CV: Tachy nl rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, slight
   edema (anasarca) left > right arm
   Labs / Radiology
   309 K/uL
   8.4 g/dL
   102 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.5 mEq/L
   16 mg/dL
   102 mEq/L
   138 mEq/L
   25.1 %
   15.6 K/uL
        [image002.jpg]
                             [**2127-3-6**]  09:00 AM
                             [**2127-3-6**]  11:49 AM
                             [**2127-3-6**]  02:51 PM
                             [**2127-3-6**]  03:57 PM
                             [**2127-3-6**]  03:58 PM
                             [**2127-3-6**]  08:25 PM
                             [**2127-3-6**]  08:42 PM
                             [**2127-3-6**]  10:15 PM
                             [**2127-3-7**]  02:23 AM
                             [**2127-3-7**]  03:09 AM
   WBC
   15.8
   15.6
   Hct
   28.3
   25.1
   Plt
   362
   309
   Cr
   0.8
   0.8
   0.7
   TCO2
   27
   26
   30
   25
   29
   31
   33
   Glucose
   124
   115
   102
   Other labs: PT / PTT / INR:15.2/34.9/1.3, CK / CKMB /
   Troponin-T:44/5/0.07, ALT / AST:30/44, Alk Phos / T Bili:114/0.3,
   Lactic Acid:1.4 mmol/L, LDH:299 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **]F with R ACA CVA and pituitary adenoma admitted with shock
   and hypoxemic respiratory failure secondary to a known aspiration
   pneumonia from NH
   .
   #  Respiratory Failure:  Patient hypoxic with CXR showing multifocal
   right lobe infiltrate.  Patient had recent ACA stroke and failed speach
   and swallow and not thought to be a good candidate for tube feeds but
   the family wanted to continue to feed her, putting her at high risk for
   aspiration. Urine & BAL Legionella negative.
   - Day [**5-11**] Vanco/Zosyn (Day 1 [**3-3**]) for 10 day course
   - Extubated [**2127-3-6**] -> ABGs improving
   - Resp status likely to improve with diuresis
   - Wean O2 as tolerated
   .
   #  Shock:  Patient admitted with fever, hypoxia, hypotension.  Most
   likely septic shock secondary to pna.  Less likely cardiogenic (trop
   slightly elevated, CK is flat, EKG without ischemic changes).  Central
   adrenal insufficiency due to pituitary macroadenoma less likely as
   cortisol elevated on admission (eos not elevated or absent).
   - Early goal directed therapy initiated and likely stable now
   - Follow lactates, trended down, now stable in range of 1.7
   - r/o MI, although likely trop leak
   - Now appears to be mildly fluid overloaded, so will continue Lasix as
   UOP has increased and Cr not elevated
   .
   #  AMS: h/o right ACA stroke recently, however patient is less alert
   than she was previously.
   - MRI head showed continued evolution of infarct, no other new changes
   - Cont asa and statin
   .
   # Metabolic alkalosis: continues to have alkalosis in setting of Lasix,
   likely contraction alkalosis
   - Started acetazolamide 250 mg Q 12 h x 2 doses, will cont at 500mg
   TID, hold for pH < 7.45
   - Goal UOP > 150cc/hr
   .
   #  Hypertension:  Given hypotension, have been holding home medications
   of metoprolol and lisinopril.
   - Tried one dose of metoprolol with some decr in HR and BP, but will
   hold off until extubated and diuresed
   - Has periods of MAT, will incr metoprolol
   .
   #  Thyroid:  Pt with goiter and low TSH in setting of pit macroadenoma;
   Free T4 1.2, wnl.
   .
   #  Anemia: at baseline of mid 20s.
   - Follow HCT
   - t & s
   .
   #  Hypocalcemia: Resolved, unclear cause, low albumin makes it
   difficult to assess.
   -  ionized calcium nl and stable
   .
   # FEN: IVF PRN, replete electrolytes, TF at goal
   .
   # Prophylaxis: Subcutaneous heparin
   # Access: RIJ CVL; A-line, would like to add PICC and d/c RIJ
   # Code: presumed full
   # Communication: Patient's family
   # Disposition: to floor as respiratory status improves, PT c/s and CM
   for poss tx to MACU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2127-3-7**] 04:09 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-3-4**] 01:00 AM
   Arterial Line - [**2127-3-5**] 04:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-03-08 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PICC placed
   - Got Lasix 40mg IV x1 w/ UOP 400-600cc/hour
   - Has bed at [**Hospital 858**] Rehab, family has concerns about discharge from
   MICU
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2127-3-6**] 09:00 AM
   Vancomycin - [**2127-3-7**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-3-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2127-3-7**] 10:00 AM
   Furosemide (Lasix) - [**2127-3-7**] 02:23 PM
   Heparin Sodium (Prophylaxis) - [**2127-3-7**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-3-8**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 88 (72 - 108) bpm
   BP: 152/65(100) {119/50(78) - 177/85(124)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 5 (5 - 12)mmHg
   Total In:
                                                                  1,935 mL
                                                                    303 mL
   PO:
   TF:
                                                                    815 mL
                                                                    217 mL
   IVF:
                                                                    720 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  4,790 mL
                                                                  1,520 mL
   Urine:
                                                                  4,590 mL
                                                                  1,520 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -2,855 mL
                                                                 -1,217 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.45/43/142/26/5
   PaO2 / FiO2: 406
   Physical Examination
   General: Minimally responsive to voice
   HEENT: Sclera anicteric, MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: scattered rales, ronchi R>L
   CV: Normal rate and  rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, edema
   improving
   Labs / Radiology
   304 K/uL
   8.5 g/dL
   121 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   22 mg/dL
   101 mEq/L
   137 mEq/L
   26.1 %
   16.3 K/uL
        [image002.jpg]
                             [**2127-3-6**]  03:57 PM
                             [**2127-3-6**]  03:58 PM
                             [**2127-3-6**]  08:25 PM
                             [**2127-3-6**]  08:42 PM
                             [**2127-3-6**]  10:15 PM
                             [**2127-3-7**]  02:23 AM
                             [**2127-3-7**]  03:09 AM
                             [**2127-3-7**]  04:07 PM
                             [**2127-3-7**]  04:14 PM
                             [**2127-3-8**]  04:50 AM
   WBC
   15.8
   15.6
   16.3
   Hct
   28.3
   25.1
   26.1
   Plt
   362
   309
   304
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   TCO2
   25
   29
   31
   33
   31
   Glucose
   124
   115
   102
   130
   121
   Other labs: PT / PTT / INR:14.0/31.9/1.2, CK / CKMB /
   Troponin-T:44/5/0.07, ALT / AST:30/44, Alk Phos / T Bili:114/0.3,
   Lactic Acid:1.1 mmol/L, LDH:299 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **]F with R ACA CVA and pituitary adenoma admitted with shock
   and hypoxemic respiratory failure secondary to a known aspiration
   pneumonia from NH.
   .
   #  Respiratory Failure:  Patient hypoxic with CXR showing multifocal
   right lobe infiltrate.  Patient had recent ACA stroke and failed speach
   and swallow and not thought to be a good candidate for tube feeds but
   the family wanted to continue to feed her, putting her at high risk for
   aspiration. Urine & BAL Legionella negative.
   - Day [**6-11**] Vanco/Zosyn (Day 1 [**3-3**]) for 10 day course
   - Resp status likely to improve with diuresis, but complicated by
   metabolic alkalosis
   - Wean O2 as tolerated, FiO2 50% -> 35%
   - One blood culture pos for Enterococcus, unsure of source, will speak
   with ID re: appropriate antibiotics
   .
   #  Shock:  Patient admitted with fever, hypoxia, hypotension.  Most
   likely septic shock secondary to pna.  Less likely cardiogenic (trop
   slightly elevated, CK is flat, EKG without ischemic changes).  Central
   adrenal insufficiency due to pituitary macroadenoma less likely as
   cortisol elevated on admission (eos not elevated or absent). R/o MI,
   although likely trop leak
   - Early goal directed therapy initiated and likely stable now
   - Follow lactates, trended down, now 1.1
   - Still pos fluid balance for ICU stay, so will continue Lasix as UOP
   has increased and Cr not elevated
   .
   #  AMS: h/o right ACA stroke recently, is now somewhat responsive to
   voice, which is an improvement
   - MRI head showed continued evolution of infarct, no other new changes
   - Cont asa and statin
   .
   # Metabolic alkalosis: continues to have alkalosis in setting of Lasix,
   likely contraction alkalosis
   - D/c acetazolamide as likely hypochloremic alkalosis, treat with KCl
   PRN
   - Cont goal UOP > 150cc/hr
   .
   #  Hypertension:  Given hypotension, have been holding home medications
   of metoprolol and lisinopril.
   - Cont home dose metoprolol with good control of BP and tachycardia
   .
   #  Thyroid:  Pt with goiter and low TSH in setting of pit macroadenoma
   - Restart Synthroid
   .
   #  Anemia: at baseline of mid 20s.
   - Follow HCT
   - t & s
   .
   #  Hypocalcemia: Resolved, unclear cause, low albumin makes it
   difficult to assess.
   -  ionized calcium nl and stable
   .
   # FEN: IVF PRN, replete electrolytes, TF at goal
   .
   # Prophylaxis: Subcutaneous heparin
   # Access: PICC line, A-line
   # Code: presumed full
   # Communication: Patient's family
   # Disposition: Pt has bed at [**Hospital 858**] Rehab, will discuss transfer with
   CM and family
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2127-3-8**] 05:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-3-5**] 04:19 PM
   PICC Line - [**2127-3-7**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-03-09 06:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2127-3-8**] 07:00 PM
 INVASIVE VENTILATION - STOP [**2127-3-8**] 07:00 PM
   - ID consult for Bld Cx pos (Enterococcus and Clostridium): needs ABD
   CT to rule out abscess; stop vanc; continue zosyn in house and switch
   to moxifloxacin 400 mg daily on discharge for total of 14 day course
   - CT abd/pelvis performed (non-contrast as no peripheral access) -
   dictated read no intra-abdominal air or fluid collections, no
   lymphadenopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2127-3-6**] 09:00 AM
   Vancomycin - [**2127-3-7**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-3-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2127-3-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-3-9**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 77 (65 - 90) bpm
   BP: 127/51(80) {105/44(66) - 167/79(115)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,038 mL
                                                                    282 mL
   PO:
                                                                    900 mL
             TF:
                                                                    628 mL
                                                                    197 mL
   IVF:
                                                                    295 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                    400 mL
   Urine:
                                                                  3,430 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,392 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.46/49/107/26/9
   PaO2 / FiO2: 306
   Physical Examination
   General: Minimally responsive to voice
   HEENT: Sclera anicteric, MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: scattered rales, ronchi R>L
   CV: Normal rate and  rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, edema
   improving
   Labs / Radiology
   308 K/uL
   8.0 g/dL
   126 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.2 mEq/L
   24 mg/dL
   105 mEq/L
   136 mEq/L
   24.6 %
   18.2 K/uL
        [image002.jpg]
                             [**2127-3-6**]  08:42 PM
                             [**2127-3-6**]  10:15 PM
                             [**2127-3-7**]  02:23 AM
                             [**2127-3-7**]  03:09 AM
                             [**2127-3-7**]  04:07 PM
                             [**2127-3-7**]  04:14 PM
                             [**2127-3-8**]  04:50 AM
                             [**2127-3-8**]  08:23 AM
                             [**2127-3-8**]  05:04 PM
                             [**2127-3-9**]  03:28 AM
   WBC
   15.6
   16.3
   18.2
   Hct
   25.1
   26.1
   24.6
   Plt
   [**Telephone/Fax (3) 5077**]
   Cr
   0.7
   0.8
   0.8
   1.0
   0.9
   TCO2
   29
   31
   33
   31
   36
   Glucose
   102
   130
   121
   112
   126
   Other labs: PT / PTT / INR:15.4/30.3/1.4, CK / CKMB /
   Troponin-T:44/5/0.07, ALT / AST:30/44, Alk Phos / T Bili:114/0.3,
   Differential-Neuts:86.2 %, Lymph:7.4 %, Mono:3.5 %, Eos:2.7 %, Lactic
   Acid:1.9 mmol/L, LDH:299 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   [**2127-3-8**] CT abd/pelvis without contrast:
   PFI: Large bilateral pleural effusions with atelectasis and focus of
   consolidation at the left lung base. No acute abnormalities in the
   abdomen or
   pelvis. No evidence of infection.
   Assessment and Plan
   This is a [**Age over 90 **]F with R ACA CVA and pituitary adenoma admitted with shock
   and hypoxemic respiratory failure secondary to a known aspiration
   pneumonia from nursing home.
   .
   #  Respiratory Failure, now resolved: Was intubated on presentation.
   Patient was hypoxic with CXR showing multifocal right lobe infiltrate.
   Patient had recent ACA stroke and failed speech and swallow and not
   thought to be a good candidate for tube feeds but the family wanted to
   continue to feed her, putting her at high risk for aspiration. Likely
   had aspiration pneumonitis/PNA. Urine & BAL Legionella negative.
   - Vanc has been d/c
d. Will continue Zosyn for a total of 14 day course
   (Day 1=[**2127-3-3**])
   - Wean O2 as tolerated, FiO2 50% -> 35%
   -
 blood culture bottles pos for Enterococcus, unsure of source
   feels it
s likely contamination, as her subsequent blood cultures have
   been negative to date. Obtained CT abd/pelvis to look for occult
   abscesses
 none seen, although it was a less than ideal study as IV
   contrast could not be given (pt had no peripheral access; contrast
   cannot be pushed via PICC per radiology tech)
   .
   #  Shock:  Patient admitted with fever, hypoxia, hypotension.  Most
   likely septic shock secondary to pna.  Less likely cardiogenic (trop
   slightly elevated, CK is flat, EKG without ischemic changes).  Central
   adrenal insufficiency due to pituitary macroadenoma less likely as
   cortisol elevated on admission (eos not elevated or absent). R/o MI,
   although likely trop leak
   - Early goal directed therapy initiated and stable now
   - Follow lactates, trended down, now 1.9 (Peaked at 3)
   - WBC increased over last 48 hours; rehab to f/u pending BCx and C diff
   test. Pt tested C. diff neg x 2 already.
   .
   #  AMS: h/o right ACA stroke recently, not responsive to voice. Opens
   eyes partially to noxious stimuli only. [**Month (only) 8**] have a component of
   delirium.
   - MRI head showed continued evolution of infarct, no other new changes
   - Cont asa and statin
   .
   # Metabolic alkalosis: likely contraction alkalosis in the setting of
   Lasix administration for diuresis.
   - Monitor
   .
   #  Hypertension:  Given hypotension on initial presentation, have been
   holding home medications of metoprolol and lisinopril.
   - Cont home dose metoprolol with good control of BP and tachycardia;
   added captopril for further control of BP. Will switch to home dose
   lisinopril upon discharge.
   .
   #  Thyroid:  Pt with goiter and low TSH in setting of pit macroadenoma,
   but free T4 is WNL.
   .
   #  Anemia: at baseline of mid 20s.
   - Monitor Hct.
   .
   #  Hypocalcemia: Resolved, unclear cause, low albumin makes it
   difficult to assess.
   -  ionized calcium nl and stable
   .
   # FEN: IVF PRN, replete electrolytes, TF at goal
   .
   # Prophylaxis: Subcutaneous heparin
   # Access: PICC line; will d/c A-line today
   # Code: full
   # Communication: Patient's daughter and grandson
   # Disposition: to [**Hospital 858**] Rehab MACU today
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2127-3-8**] 08:40 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-3-5**] 04:19 PM
   PICC Line - [**2127-3-7**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: